US03985730
To a solution of approximately 49 parts of 5-ethyl-5H-dibenz[b,f]azepine-10-carbonitrile in 1,600 parts of absolute ethanol at 70°-75° is added, portionwise with stirring, 76 parts of sodium tetrahydroborate (1-). When the addition is conplete, the reaction mixture is maintained at 70°-75° with stirring for a further 1 1/2 hours, whereupon it is cooled and solvent is then removed by vacuum distillation. Approximately 2,000 parts of water is mixed with the residue. Insoluble solids are filtered out, washed on the filter with water, dried in air, and recrystallized from ethanol to give 5-ethyl-10,11-dihydro-5H-dibenz[b,f]azepine-10-carbonitrile as a yellow solid melting at 127°-129°.

reactant | 5-ethyl-5H-dibenz[b,f]azepine-10-carbonitrile | C(C)N1C2=C(C=C(C3=C1C=CC=C3)C#N)C=CC=C2 | C17H14N2
reactant | sodium tetrahydroborate (1-) | [B-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 5-ethyl-10,11-dihydro-5H-dibenz[b,f]azepine-10-carbonitrile | C(C)N1C2=C(CC(C3=C1C=CC=C3)C#N)C=CC=C2 | C17H16N2
